US05679672
A mixture of (+)-phenylmethyl N-[(3R)-2,3-dihydro-5-phenyl-2-oxo-1H-1,4-benzodiazepin-3-yl]carbamate (4.0 g, 10 mmol) and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (4.5 g 11 mmol) in toluene (100 mL) was heated under reflux for 75 min. The mixture was cooled and the volume was reduced to 30 mL by evaporation under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with EtOAc/Hexane (75:25) to give phenylmethyl N-[(3R)-2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl]carbamate.

reactant | (+)-phenylmethyl N-[(3R)-2,3-dihydro-5-phenyl-2-oxo-1H-1,4-benzodiazepin-3-yl]carbamate | 10 mmol, 4.0 g | C1(=CC=CC=C1)C1=N[C@H](C(NC2=C1C=CC=C2)=O)NC(OCC2=CC=CC=C2)=O | C23H19N3O3
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 11 mmol, 4.5 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | phenylmethyl N-[(3R)-2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl]carbamate | C1(=CC=CC=C1)C1=N[C@H](C(NC2=C1C=CC=C2)=S)NC(OCC2=CC=CC=C2)=O | C23H19N3O2S
